US07414076B2
Preparation of 3-[(1R,2S)-2-methylcyclohexyl]amino-1-propanesulfonic acid (Compound DJ)
To a solution of 2-methylcyclohexylamine (98% cis and trans isomers, 10.0 g, 88.3 mmol) in tetrahydrofuran (60 mL) was slowly added a solution of 1,3-propane sultone (10.5 g, 84.1 mmol) in THF (20 mL). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid material was collected by filtration, washed with acetone (2×50 mL). The solid was dissolved in 50% EtOH/water (200 mL); and solution was treated with Dowex 50WX8 resin (15 g). The suspension stirred at room temperature for 15 min. The resin was removed by filtration. The filtrate was concentrated to half of the original volume on a rotary evaporator. The solid product slowly crystallized. The product was collected by filtration, washed with acetone (2×50 mL) and dried in a vacuum oven (50° C.), to afford compound DJ (10.4 g, 53%): 1H NMR (D2O, 500 MHz) δ ppm 3.15 (m, 1H), 3.03 (m, 1H), 2.88 (t, 2H, J=7.3 Hz), 2.76 (m, 1H), 1.98 (m, 3H), 1.68 (m, 2H), 1.51 (m, 2H), 1.18 (m, 3H), 1.01 (m, 1H), 0.92 (m, 3H). 13C NMR (D2O, 125 MHz) δ ppm 62.97, 48.16, 42.72, 34.77, 33.50, 27.57, 24.51, 24.23, 21.51, 17.80. ES-MS 234 (M-1).

reactant | 2-methylcyclohexylamine | 88.3 mmol, 10.0 g | CC1C(CCCC1)N | C7H15N
reactant | 1,3-propane sultone | 84.1 mmol, 10.5 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-[(1R,2S)-2-methylcyclohexyl]amino-1-propanesulfonic acid | C[C@@H]1[C@@H](CCCC1)NCCCS(=O)(=O)O | C10H21NO3S
